US06969717B2
To a solution of 4-fluoro-1H-pyrrolo[2,3-b]pyridine (408 mg, 3.0 mmol), in THF (5 mL) sodium hydride (60% in oil, 120 mg, 3.0 mmol) was added in small portions. After 30 min, benzenesulfonyl chloride (0.42 mL, 3.3 mmol) was added and stirred at 23° C. for 21 h. Ethyl acetate was added (25 mL), the mixture was cooled at 0° C., neutralized with a solution of saturated ammonium chloride and layers were separated. The aqueous layer was extracted twice with ethyl acetate (2×25 mL), the organic layers were combined, washed with water (100 mL), brine (100 mL), dried, and concentrated in vacuo. The crude material was purified by flash chromatography eluting with 25% ethyl acetate in hexane to give of 1-benzenesulfonyl-4-fluoro-1H-pyrrolo[2,3-b]pyridine (683 mg, 82%). 1H NMR (400 MHz, DMSO-d6) δ 8.40 (1H, dd, J=5.8, 7.8 Hz), 8.12 (2H, dd, J=1.0, 6.3 Hz), 7.98 (1H, d, J=4.3 Hz), 7.73 (1H, tt, J=1.3, 6.9 Hz), 7.63 (3H, t, J=7.3 Hz), 7.25 (1H, dd, J=5.6, 9.9 Hz), 6.93 (1H, d, J=4.1 Hz). LCMS m/z 277 (M+H+). B. To a solution of 1-benzenesulfonyl-4-fluoro-1H-pyrrolo[2,3-b]pyridine (683 mg, 2.47 mmol), in THF (12.0 mL) at −78° C., n-butyllithium solution (2.36M in hexanes, 2.30 mL, 5.44 mmol) was added dropwise. After 90 min, iodomethane (0.31 mL, 4.95 mmol) was added rapidly. After 15 min, a solution of saturated ammonium chloride was added and the mixture was allowed to reach RT. The solution was extracted with ethyl acetate (3×15 mL), combined organic layers were washed with water (30 mL), brine (30 mL), dried, and concentrated in vacuo. The crude material was placed in of THF (12 mL) and a solution tetrabutylammonium fluoride (1.0 M in THF, 3.7 mL, 3.7 mmol) was added. The mixture was heated at 65° C. for 16 h. The mixture was cooled RT, concentrated in vacuo and the residue was purified by preparative HPLC to yield 4-fluoro-2-methyl-1H-pyrrolo[2,3-b]pyridine (300 mg, 80%). 1H NMR (400 MHz, CDCl3) δ 10.70 (1H, s), 8.13 (1H, t, J=5.8 Hz), 6.77 (1H, dd, J=5.3, 9.6 Hz), 6.25 (1H, s) 2.51 (3H, s). LCMS; m/z 151 (M+H+). C. To a solution of 4-fluoro-2-methyl-1H-pyrrolo[2,3-b]pyridine (300 mg, 2.0 mmol), in THF (6 mL), sodium hydride (60% in oil, 84 mg, 2.1 mmol) was added in small portions. After 30 min, chlorotriisopropylsilane (0.45 mL, 2.1 mmol) was added and the mixture was stirred at 65° C. for 16 h. Ethyl acetate was added (25 mL), the mixture was cooled at 0° C., neutralized with a solution of saturated ammonium chloride and layers were separated. The aqueous layer was extracted twice with ethyl acetate (2×25 mL), the organic layers were combined, washed with water (100 mL), brine (100 mL), and concentrated in vacuo. The crude material was purified by flash chromatography eluting with hexanes to give 4-fluoro-2-methyl-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (400 mg, 65%) as a colorless oil. LCMS; m/z 307 (M+H+).

reactant | 4-fluoro-1H-pyrrolo[2,3-b]pyridine | 3.0 mmol, 408 mg | FC1=C2C(=NC=C1)NC=C2 | C7H5FN2
reactant | THF | 3.0 mmol, 5 mL, 120 mg | C1CCOC1 | C4H8O
reactant | benzenesulfonyl chloride | 3.3 mmol, 0.42 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzenesulfonyl-4-fluoro-1H-pyrrolo[2,3-b]pyridine | 683 mg, 82% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2F | C13H9FN2O2S
